US04623650
4-Bromobenzyl dimethyl-t-butylsilyl ether
A mixture of 18.7 g 4-bromobenzyl alcohol, imidazole (13.6 g), dimethyl-t-butylsilyl chloride (15 g) and N,N-dimethylformamide (100 ml) was stirred at room temperature for 2 hours. The reaction mixture was poured into water and extracted three times with ether. The combined organic extracts was washed with water, brine and dried. Evaporation gave the product as a colorless oil (29.8 g, 99% yield) which was used without further purification. NMR (CDCl3, 250 MHz): 7.55 (d, 2H, J=9 Hz), 7.25 (d, 2H, J=9 Hz), 4.7 (s, 2H), 0.9 (s, 9H), 0.0 (s, 6H).

reactant | 4-bromobenzyl alcohol | 18.7 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | imidazole | 13.6 g | N1C=NC=C1 | C3H4N2
reactant | dimethyl-t-butylsilyl chloride | 15 g | C[Si](C(C)(C)C)(C)Cl | C6H15ClSi
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-Bromobenzyl dimethyl-t-butylsilyl ether | 29.8 g, 99% yield | C[Si](C(C)(C)C)(C)OCC1=CC=C(C=C1)Br | C13H21BrOSi
